US07579469B2
Synthesis of {4-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3,4-dihydro-2H-quinoxalin-1-yl}furan-2-ylmethanone
To a solution of 2-(3,4-dihydro-2H-quinoxalin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol (0.50 g, 0.117 mmol) in dichloromethane (10 mL) was added pyridine (0.24 mL, 0.129 mmol) and 2-furoyl chloride (0.012 mL, 0.129 mmol). The reaction was stirred at room temperature for 14 hours. The reaction mixture was diluted with dichloromethane, washed with two 25 mL portions of a saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and the solvent was evaporated in vacuo. Purification by flash column chromatography (5% MeOH/CH2Cl2) yielded the title compound as a white solid (14.5 mg).

reactant | 2-(3,4-dihydro-2H-quinoxalin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 0.117 mmol, 0.50 g | N1(CCNC2=CC=CC=C12)CC(C(F)(F)F)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C22H26F4N2O2
reactant | pyridine | 0.129 mmol, 0.24 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-furoyl chloride | 0.129 mmol, 0.012 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | {4-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-3,4-dihydro-2H-quinoxalin-1-yl}furan-2-ylmethanone | 14.5 mg | FC=1C=CC(=C(C1)C(CC(CN1CCN(C2=CC=CC=C12)C(=O)C=1OC=CC1)(C(F)(F)F)O)(C)C)OC | C27H28F4N2O4
